US07595312B2
9b 4-amino-3-trifluoromethyl-benzoic acid
At RT a solution of 153 g (0.66 mol) ethyl 4-amino-3-trifluoromethyl-benzoate in 350 mL EtOH was added to a solution of 100 g (2.5 mol) NaOH in 250 mL water and the reaction mixture was stirred for 2 h at 45° C. EtOH was eliminated i. vac., the remaining aqueous solution was acidified with conc. HCl, the precipitated product was suction filtered, washed with water and dried in the air.

reactant | ethyl 4-amino-3-trifluoromethyl-benzoate | 0.66 mol, 153 g | NC1=C(C=C(C(=O)OCC)C=C1)C(F)(F)F | C10H10F3NO2
reactant | NaOH | 2.5 mol, 100 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | EtOH | 350 mL | CCO | C2H6O
solvent | water | 250 mL | O | H2O
product | 4-amino-3-trifluoromethyl-benzoic acid | NC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C8H6F3NO2
